US08445530B2
2-(5-Chloro-2-fluoro-phenyl)-ethanol
A solution of 5 g (26.51 mmol) of 5-chloro-2-fluoro-phenylacetic acid in 60 ml of THF was added dropped to a suspension of 2.012 g (53.02 mmol) of lithium aluminium hydride in 26.5 ml of THF. 30 ml of THF were added, and the mixture was heated under reflux for 3 h. After cooling to 0° C., a solution of 929.7 mg (16.57 mmol) of potassium hydroxide in 4 ml of water was cautiously added and the mixture was stirred overnight at room temperature. The formed precipitate was filtered off with suction and washed with THF. The combined filtrates were dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by silica gel chromatography (DCM/methanol 98:2) to give 3.8 g of the title compound.

reactant | 5-chloro-2-fluoro-phenylacetic acid | 26.51 mmol, 5 g | ClC=1C=CC(=C(C1)CC(=O)O)F | C8H6ClFO2
reactant | lithium aluminium hydride | 53.02 mmol, 2.012 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydroxide | 16.57 mmol, 929.7 mg | [OH-].[K+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 26.5 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(5-Chloro-2-fluoro-phenyl)-ethanol | 3.8 g | ClC=1C=CC(=C(C1)CCO)F | C8H8ClFO
